Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cardizem / lisinopril / Statins-Hmg-Coa Reductase Inhibitors / 
Gadolinium-Containing Contrast Media
 
Attending: ___.
 
Chief Complaint:
fatigue
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with metastatic
melanoma previously on ipi/nivo with nivo maintenance with
progression, clinical trial ___ of a glutaminase inhibitor
___/nivolumab with progression, dasatinib complicated by
cardiac ischemia, TVEC/pembro with progression, and most 
recently
on clinical trial ___ (CMP-001 + pembrolizumab) recently
found to have disease progression as well as adrenal
insufficiency, hypothyroidism, atrial fibrillation on coumadin,
Vtach (s/p PPM/ICD), hypertension, and TIA who presents with
weakness, fatigue, and confusion.

Patient reports weakness, fatigue, intermittent dizziness, and
confusion for approximately 1 month. She endorses generalized
weakness which is worse in her legs. She has difficulty walking
and climbing stairs due to her weakness. She notes she has had 
to
pull on her pant legs to get into her car for the past 6 months
but notes this has significantly worsened over the past month.
She denies numbness and tingling. She does endorse a few 
episodes
of both urinary and fecal (diarrhea) incontinence. She feels 
more
confused and has recently forgotten appointments and 
medications.
She reports intermittent episodes of dizziness, especially with
standing. She had a fall about 1 week ago when she fell 
backwards
off 1 step onto pavement and hit her head. She denies LOC. She
was seen at ___ with negative work-up. She notes
alternating diarrhea and constipation. She also notes very poor
appetite and poor PO intake. She is able to eat 1 full meal 
every
couple days. She also endorses some intermittent shortness of
breath with exertion. She called her Oncologist who recommended
evaluation in the ED.

On arrival to the ED, initial vitals were 97.2 60 159/47 16 100%
RA. Labs were notable for WBC 10.2, H/H 8.7/30.5, Plt 309, Na
137, K 3.6, BUN/Cr ___, lactate 3.0 -> 1.3 -> 1.5. UA showed
moderate leuks, no nitrite, 14 WBCs, and few bacteria. No
cultures sent. She was given 1L LR. CXR showed no consolidation.
Head CT showed No acute intracranial process. Prior to transfer
vitals were 98.5 63 134/40 20 100% RA.

On arrival to the floor, patient reports fatigued. She has no
pain currently. She notes intermittent fevers to 101 with 
chills.
Has occasional palpitations. Has had some nausea with vomiting
the past few days. She denies headache, vision changes, 
numbness,
cough, hemoptysis, chest pain, abdominal pain, hematemesis,
hematochezia/melena, dysuria, hematuria, and new rashes.

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
Patient first noted rectal bleeding around ___. Over time
bleeding continued and she had a change in the caliber of her
bowel movements and was referred for a colonoscopy. She reports
that some small polyps were removed and that there were some
hemorrhoids, but no evidence of cancer. The bleeding continued
and she assumed that this was related hemorrhoids. Eventually,
she could feel a small mass prolapse in and out of her rectum 
and
was referred to Dr. ___ in Surgery. He was prepared to do
surgery for repair of rectal prolapse, but in OR on ___ he
found a 4 x 4 x 3 cm mass that had undergone torsion of the
pedicle and become gangrenous. All of the gangrenous tissue and
wide stalk was excised. 
Pathology showed invasive melanoma with gross tumor size of 4.3 
x
3.7 x 2.3 cm. The thickness was at least 9 mm with ___ level
IV, positive ulceration, and 34 mitoses per mm2, with no
lymphovascular or perineural invasion. Margins appeared to be
narrowly clear at the base of the stalk. 
CT torso on ___ which was remarkable for numerous small, 
up
to 2 mm, bilateral lung nodules which were worrisome for
metastatic disease, soft tissue fullness at the level of the
anorectal region which was suboptimally assessed, and a 14 mm
lymph node in the left perirectal region worrisome for 
metastatic
disease. This was followed up on ___ with a whole body
PET/CT. The lung nodules noted on CT chest had no FDG uptake but
were well below the resolution of PET/CT, the left perirectal
lymph node had an SUV max of 4.4. On ___, patient saw Dr.
___ in Medical ___. He noted that these are very rare
lesions that are difficult to treat and suggested referral to 
the
___ at ___. Given concern for metastatic
disease, we opted against any aggressive surgery and followed
clinically and with imaging. 
Unfortunately in ___, she was found to have new lung,
liver,and inguinal node lesions. Patient was started on
combination nivolumab and ipilimumab on ___. Now on
nivolumab maintenance.

PAST MEDICAL HISTORY:
- Melanoma
- Breast cancer s/p partial mastectomy
- Congestive heart failure
- Atrial fibrillation
- Ventricular tachycardia s/p PPM and ICD
- Hypertension
- Hyperlipidemia
- GERD
- Depression
- Right Carpal Tunnel Surgery 
 
Social History:
___
Family History:
Father with melanoma
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: Temp 98.1, BP 147/72, HR 60, RR 14, and O2 sat 98% RA.
GENERAL: Very pleasant woman, in no distress, lying in bed
comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, no murmurs.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally.
ABD: Soft, non-tender, non-distended, positive bowel sounds.
EXT: Warm, well perfused, no lower extremity edema.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact. Able to state ___ backwards. Able to do simple
arithmetic. Knows president.
SKIN: No significant rashes.
ACCESS: Right chest wall port without erythema.

DISCHARGE PHYSICAL EXAM 
ADMISSION PHYSICAL EXAM:
VS: Temp 98.1, BP 147/72, HR 60, RR 14, and O2 sat 98% RA.
GENERAL: Very pleasant woman, in no distress, lying in bed
comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, no murmurs.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally.
ABD: Soft, non-tender, non-distended, positive bowel sounds.
EXT: Warm, well perfused, no lower extremity edema.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact. Able to state ___ backwards. Able to do simple
arithmetic. Knows president.
SKIN: No significant rashes.
ACCESS: Right chest wall port without erythema.

 
Pertinent Results:
ADMISSION LABS
===============

___ 03:00PM BLOOD WBC-10.2* RBC-3.62* Hgb-8.7* Hct-30.5* 
MCV-84 MCH-24.0* MCHC-28.5* RDW-18.5* RDWSD-57.0* Plt ___
___ 03:00PM BLOOD Neuts-88.8* Lymphs-4.3* Monos-4.7* 
Eos-0.8* Baso-0.4 Im ___ AbsNeut-9.08* AbsLymp-0.44* 
AbsMono-0.48 AbsEos-0.08 AbsBaso-0.04
___ 03:00PM BLOOD Plt ___
___ 12:41AM BLOOD ___
___ 05:24AM BLOOD Ret Aut-1.7 Abs Ret-0.05
___ 03:00PM BLOOD Glucose-129* UreaN-12 Creat-0.7 Na-137 
K-3.6 Cl-101 HCO3-23 AnGap-13
___ 05:24AM BLOOD ALT-12 AST-31 LD(LDH)-846* AlkPhos-87 
TotBili-0.4
___ 05:24AM BLOOD Albumin-2.7* Calcium-8.8 Phos-3.0 Mg-1.6 
Iron-23*
___ 05:24AM BLOOD calTIBC-179* Hapto-221* Ferritn-343* 
TRF-138*
___ 03:24PM BLOOD Lactate-3.0*

DISCHARGE LABS
==============
___ 06:03AM BLOOD WBC-7.4 RBC-3.46* Hgb-8.4* Hct-29.0* 
MCV-84 MCH-24.3* MCHC-29.0* RDW-18.7* RDWSD-56.9* Plt ___
___ 06:03AM BLOOD Plt ___
___ 06:03AM BLOOD ___ PTT-36.0 ___
___ 06:03AM BLOOD Glucose-127* UreaN-7 Creat-0.6 Na-143 
K-4.7 Cl-104 HCO3-24 AnGap-15
___ 06:03AM BLOOD ALT-16 AST-33 AlkPhos-101 TotBili-0.4
___ 06:03AM BLOOD Calcium-9.0 Phos-3.7 Mg-1.9

PERTINENT IMAGING 
==================
MRI BRAIN WITH CONTRAST
IMPRESSION: 
1. No abnormal contrast enhancement in the correlate areas to 
the previously 
described foci of T1 signal hyperintensity on the noncontrast 
sequences 
performed one day prior.  In the absence of contrast 
enhancement, the 
previously described T1 hyperintense foci are likely artifactual 
or the result 
at volume averaging from the adjacent vasculature. 
2. Unchanged appearance of the 6 mm left paraophthalmic internal 
carotid 
artery aneurysm and 3 mm right paraophthalmic artery aneurysm, 
better 
characterized on the recent CT angiogram of the head and neck 
from ___. 

MRI THORACIC AND LUMBAR SPINE WITH CONTRAST
1. No evidence of abnormal enhancement in the thoracolumbar 
spine. 
2. Mild multilevel degenerative change as characterized on MRI 
the 
thoracolumbar spine from ___. 

CT HEAD WITHOUT CONTRAST
IMPRESSION:  
  
No acute intracranial process. 

CXR
  
Small pulmonary nodules on prior CT from ___ were 
better assessed  on CT.  No focal consolidation. 

 
Brief Hospital Course:
Ms. ___ is a ___ female with metastatic
melanoma previously on ipi/nivo with nivo maintenance with
progression, clinical trial ___ of a glutaminase inhibitor
___/nivolumab with progression, dasatinib complicated by
cardiac ischemia, TVEC/pembro with progression, and most 
recently
on clinical trial ___ (CMP-001 + pembrolizumab) recently
found to have disease progression as well as adrenal
insufficiency, hypothyroidism, atrial fibrillation on coumadin,
Vtach (s/p PPM/ICD), hypertension, and TIA who presented with
weakness, fatigue, and confusion. Initially concerned for 
metastatic spread of disease to brain and spinal cord, but MRI 
of brain and spine were obtained, which was negative for brain 
mets of cord compression. Fatigue improved prior to discharge, 
and was thought to be due to multifactorial and secondary to 
lack of appropriate medication use, progression of malignancy, 
anemia, dehydration, and malnutrition. 

TRANSITIONAL ISSUES: 
==================
[ ] Close followup of INR given variable INR, needs INR check on 
___ in ___ clinic
[ ] If possible, would recommend transitioning to DOAC given 
concern for labile INR on warfarin
[ ] Repeat CBC within 1 week of discharge, to ensure stability, 
given anemia during hospitalization  
[ ] Consider PO iron supplementation given worsening of anemia
[ ] Mild multilevel degenerative change seen on MRI in the 
thoracolumbar spine, common in asymptomatic patients. There were 
also multiple T1 and T2 hypointense lesions in the bilateral 
kidneys,  including a 1.1 cm lesion in the superior pole of the 
left kidney, incompletely characterized in the absence of 
pre-contrast axial T1 sequence imaging. Would recommend 
attention on follow-up imaging. 
[ ] Incidental finding of extensive colonic diverticulosis on 
MRI
[ ] If continues to have fatigue of unclear etiology, she open 
to trying Ritalin and this may be considered at that time

ACUTE ISSUES:
=============
# Generalized Weakness, subjectively worst in Lower Extremities:
# Fatigue:
Likely multifactorial and secondary to lack of appropriate
medication use (per daughter's concerns that she has not been
taking all her medications as prescribed), progression of
malignancy, anemia, dehydration, and malnutrition. Initially 
concerned for adrenal insufficiency, which per endocrine consult 
was not likely; ultimately did not change steroid dosing, on the 
recommendations of the endocrine team. MRI head performed to 
rule out metastasis to the brain, which was negative. MRI T and 
L spine performed to rule out cord compression given history of 
intermittent fecal incontinence, which was also negative. Home 
___ arranged to assist with medications at home, and also set up 
for home ___.  

# Metastatic Melanoma:
# Secondary Neoplasm of Lung:
# Secondary Neoplasm of Liver:
# Secondary Neoplasm of Lymph Node: Recently stopped clinical
trial ___ (CMP-001 + pembrolizumab) due to disease
progression. Unclear plan for future cancer-directed therapy. 
Dr. ___ updated

# Hypothyroidism
Continued home levothyroxine; TSH normal 

# Atrial Fibrillation
# VTach s/p ICD/PPM
# Hypertension
# Supratherapeutic INR: continued on Warfarin, follow up with 
___ clinic outpatient

# GERD
Continued home famotidine

# Anemia in Malignancy: H/H lower than recent baseline. No
evidence of bleeding. Iron studies indicating likely iron 
deficiency with anemia of chronic inflammation/malignancy. 
Hemolysis labs negative. Would recommend repeat CBC in 
outpatient setting to ensure stability. 

CORE MEASURES
==============
#HCP/Contact: Wife LOAN ___ 
#Code: Full presumed  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Famotidine 20 mg PO BID 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Vitamin D ___ UNIT PO DAILY 
6. Warfarin 5 mg PO 4X/WEEK (___) 
7. Warfarin 2.5 mg PO 3X/WEEK (___) 
8. Hydrocortisone 20 mg PO QAM 
9. Hydrocortisone 5 mg PO QPM 

 
Discharge Medications:
1.  ___  MD to order daily dose PO DAILY16 
Follow up with your ___ clinic, have your INR rechecked on 
___.  
RX *warfarin [Coumadin] 2 mg 1 tablet(s) by mouth Take as 
directed, once daily Disp #*10 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Famotidine 20 mg PO BID  
4.  Hydrocortisone 20 mg PO QAM  
5.  Hydrocortisone 5 mg PO QPM  
6.  Levothyroxine Sodium 100 mcg PO DAILY  
7.  Metoprolol Succinate XL 50 mg PO DAILY  
8.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Fatigue 
Metastatic Melanoma

SECONDARY DIAGNOSIS:
Anemia in Malignancy
Atrial Fibrillation on Warfarin
Secondary Adrenal Insufficiency 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Ms. ___,
 
It was a pleasure caring for you at ___ 
___.  
 
WHY WAS I IN THE HOSPITAL?  
- You were admitted because you were feeling very fatigued, and 
there was concern that you might have had metastatic spread of 
cancer. 
 
WHAT HAPPENED TO ME IN THE HOSPITAL? 
- We initially gave you higher doses of steroids, which did not 
improve your symptoms significantly, so on the advice of your 
endocrinology team we reverted back to your home dosing.  
- You had an MRI of your brain and spine, which showed that you 
did not have metastases in your brain or spine. 
- You revealed that you may have been having trouble managing 
your medications at home, so we set up a visiting nurse for you 
to help you manage these.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.
- Please recheck your INR on ___. Your physician and 
___ clinic nurses ___ discuss which dose of warfarin is 
most appropriate for you going forward (likely plan to take 2mg 
on ___, but your ___ clinic will call you to confirm the 
final dosing). 

We wish you the best!  
 
Sincerely,  
Your ___ Team

 
Followup Instructions:
___